US07943654B2
3-[2-[(1H-Pyrrole-2-carbonyl)-amino]-benzoylamino]-1H-thieno[2,3-c]pyrazole-5-carboxylic Acid (1-methyl-1-phenyl-ethyl)-amide
5-(1-Methyl-1-phenyl-ethylcarbamoyl)-3-{2-[(1H-pyrrole-2-carbonyl)amino]benzoylamino}-thieno[2,3-c]pyrazole-1-carboxylic acid ethyl ester as crude from the previous reaction was treated with a 10% solution of TEA in methanol (25 mL) overnight. The solvent was evaporated under vacuum and the product was purified by flash chromatography (eluant dichloromethane/methanol 97/3) (78.5 mg, 36%),

reactant | 5-(1-Methyl-1-phenyl-ethylcarbamoyl)-3-{2-[(1H-pyrrole-2-carbonyl)amino]benzoylamino}-thieno[2,3-c]pyrazole-1-carboxylic acid ethyl ester | C(C)OC(=O)N1N=C(C2=C1SC(=C2)C(NC(C)(C2=CC=CC=C2)C)=O)NC(C2=C(C=CC=C2)NC(=O)C=2NC=CC2)=O | C30H28N6O5S
solvent | methanol | 25 mL | CO | CH4O
product | 3-[2-[(1H-Pyrrole-2-carbonyl)-amino]-benzoylamino]-1H-thieno[2,3-c]pyrazole-5-carboxylic Acid (1-methyl-1-phenyl-ethyl)-amide | CC(C)(C1=CC=CC=C1)NC(=O)C1=CC2=C(NN=C2NC(C2=C(C=CC=C2)NC(=O)C=2NC=CC2)=O)S1 | C27H24N6O3S
